simulator lang=spectre
global 0

ahdl_include "../submission/pa_gain_compression_ampm_macro.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.50 20n 0.50 20.2n 0.58 48n 0.58 48.2n 0.34 74n 0.34 92n 0.34]
Venvelope (envelope 0) vsource type=pwl wave=[0 0.45 24n 0.45 24.2n 0.62 50n 0.62 50.2n 0.84 78n 0.84 92n 0.84]
Venable (enable 0) vsource type=pwl wave=[0 0 5n 0 5.2n 0.9 82n 0.9 82.2n 0 92n 0]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.2n 0 92n 0]
XDUT (vin envelope enable rst vout gain_metric phase_metric compressed) pa_gain_compression_ampm_macro


tran tran stop=92n maxstep=200p
save vin envelope enable rst vout gain_metric phase_metric compressed
